US08202881B2
35A Preparation of 3-bromopiperidine-2,4-dione
To a mixture of piperidine-2,4-dione (0.072 g, 0.637 mmol) in acetic acid (1.591 mL) was added bromine (0.033 mL, 0.637 mmol) dropwise. The reaction mixture was stirred at rt 70 min. Dichloromethane was added and the cloudy mixture was concentrated in vacuo. The residual solution was treated with ethyl ether. A white solid crashed out and the AcOH/ether was decanted. The white solid, presumed to be product was carried forward. The white solid started liquifying and turning red rapidly upon exposure to light and standing.

reactant | piperidine-2,4-dione | 0.637 mmol, 0.072 g | N1C(CC(CC1)=O)=O | C5H7NO2
reactant | bromine | 0.637 mmol, 0.033 mL | BrBr | Br2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 1.591 mL | C(C)(=O)O | C2H4O2
product | 3-bromopiperidine-2,4-dione | BrC1C(NCCC1=O)=O | C5H6BrNO2
